US06660744B1
A mixture of 5-phenyl-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-oxazolan-2-one (0.085 g, 0.000233 mol), cis-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.086 g, 0.000194 mol), tetrakis-(triphenylphosphine)palladium (0.013 g, 0.000012 mol) and sodium carbonate monohydrate (0.060 g, 0.000485 mol) was heated in a mixture of ethylene glycol dimethyl ether (5 mL) and water (3 mL) at 80° C. for sixteen hours under an atmosphere of nitrogen. The mixture was allowed to cool to ambient temperature and solvents were removed under the reduced pressure. The residue was purified by preparative HPLC (Hypersil C18, 8 μm, 25 cm; 10-60% acetonitrile-0.1 M ammonium acetate over 25 min, 21 mL/min) to yield cis-3-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-5-phenyl-1,3-oxazolan-2-one acetate (0.074 g, 0.000121 mol) as a white solid.

reactant | 5-phenyl-3-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-1,3-oxazolan-2-one | 0.000233 mol, 0.085 g | C1(=CC=CC=C1)C1CN(C(O1)=O)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C21H24BNO4
reactant | cis-3-iodo-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.000194 mol, 0.086 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | sodium carbonate monohydrate | 0.000485 mol, 0.060 g | O.C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 5 mL | COCCOC | C4H10O2
solvent | water | 3 mL | O | H2O
product | cis-3-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenyl)-5-phenyl-1,3-oxazolan-2-one acetate | 0.000121 mol, 0.074 g | C(C)(=O)O.NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)N2C(OC(C2)C2=CC=CC=C2)=O)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | InChI=1S/C31H36N8O2.C2H4O2/c1-36-15-17-37(18-16-36)23-11-13-25(14-12-23)39-30-27(29(32)33-20-34-30)28(35-39)22-7-9-24(10-8-22)38-19-26(41-31(38)40)21-5-3-2-4-6-21;1-2(3)4/h2-10,20,23,25-26H,11-19H2,1H3,(H2,32,33,34);1H3,(H,3,4)/t23-,25+,26?;
